US05525723
b) N-[N-Phthalimido-3 -(3-thienyl)-L-alanyl]-6-hydroxy-L-norleucine, methyl ester
N-Methylmorpholine (1.89 ml., 18.12 mmol.) was added to a solution of 6-hydroxy-L-norleucine, methyl ester, hydrochloride (10.66 mmol.) in methylene chloride (41 ml.)/dimethylformamide (11 ml.) at room temperature under argon. The resulting mixture was cooled to 0° C. and N-phthalimido-3-(3-thienyl)-L-alanine (3.21 g., 10.66 mmol.), hydroxy-benzotriazole (1.48 g., 10.98 mmol.), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (2.25 g., 11.73 mmol.) were added sequentially. After stirring at 0° C. for 30 minutes, the mixture was warmed to room temperature and stirred for 2 hours. The volatiles were evaporated and the residue was partitioned between ethyl acetate and water. The organic layer was washed successively with 0.5N hydrochloric acid, water, saturated sodium bicarbonate, and brine, and the organic layer was dried (sodium sulfate), filtered, and concentrated. The residue was flash chromatographed (Merck silica gel) eluting with 4:1 ethyl acetate/hexane to give 3.8 g. of title compound as a white foam. TLC (ethyl acetate) Rf =0.56.

reactant | N-Methylmorpholine | 18.12 mmol, 1.89 ml | CN1CCOCC1 | C5H11NO
reactant | 6-hydroxy-L-norleucine, methyl ester, hydrochloride | 10.66 mmol | Cl.OCCCC[C@H](N)C(=O)OC
reactant | N-phthalimido-3-(3-thienyl)-L-alanine | 10.66 mmol, 3.21 g | C1(C=2C(C(N1N[C@@H](CC1=CSC=C1)C(=O)O)=O)=CC=CC2)=O | C15H12N2O4S
reactant | hydroxy-benzotriazole | 10.98 mmol, 1.48 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 11.73 mmol, 2.25 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 41 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | N-[N-Phthalimido-3 -(3-thienyl)-L-alanyl]-6-hydroxy-L-norleucine, methyl ester | C1(C=2C(C(N1N[C@@H](CC1=CSC=C1)C(=O)N[C@@H](CCCCO)C(=O)OC)=O)=CC=CC2)=O | C22H25N3O6S
